US08735414B2
A mixture of methyl 6-bromo-5-fluoro-1H-indole-3-carboxylate (9.0 g, 33 mmol), bromocyclopentane (5.3 mL, 49.6 mmol) and Cs2CO3 (21.5 g, 66 mmol) in DMF (40 mL) was stirred at 80° C. overnight. The mixture was then poured into ice water, filtered and washed with water. The solid was collected and dried to give methyl 6-bromo-1-cyclopentyl-5-fluoro-1H-indole-3-carboxylate (10.3 g, yield 91%), which was used in the next step without further purification.

reactant | methyl 6-bromo-5-fluoro-1H-indole-3-carboxylate | 33 mmol, 9.0 g | BrC1=C(C=C2C(=CNC2=C1)C(=O)OC)F | C10H7BrFNO2
reactant | bromocyclopentane | 49.6 mmol, 5.3 mL | BrC1CCCC1 | C5H9Br
reactant | Cs2CO3 | 66 mmol, 21.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | methyl 6-bromo-1-cyclopentyl-5-fluoro-1H-indole-3-carboxylate | 10.3 g, yield 91% | BrC1=C(C=C2C(=CN(C2=C1)C1CCCC1)C(=O)OC)F | C15H15BrFNO2
